US08377923B2
A mixture of 5-chloro-2-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy}benzonitrile (300 mg) and toluene (5 ml) was cooled to −78° C. under a nitrogen atmosphere and a 1M DIBAL/toluene solution (0.9 ml) was added dropwise thereto. After the dropwise addition was completed, it was stirred at the temperature for one hour and then further stirred at 0° C. for one hour. A saturated aqueous Rochelle salt solution was added thereto at 0° C., ethyl acetate was further added thereto, followed by stirring for 30 minutes, and it was then stood overnight. The reaction solution was extracted with ethyl acetate, the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 95:5). The resulting formed precipitate was subjected to the same reaction and the residue was purified by silica gel column chromatography. The resulting residue was dissolved in ethyl acetate (1 ml), a 4M hydrogen chloride-ethyl acetate solution (100 μl) was added thereto, followed by stirring at room temperature, and the precipitated solid was collected by filtration and then dried under reduced pressure to obtain 5-chloro-2-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy]benzaldehyde monohydrochloride (31 mg).

reactant | 5-chloro-2-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy}benzonitrile | 300 mg | ClC=1C=CC(=C(C#N)C1)O[C@@H](C)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C19H14ClF3N4O
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | DIBAL toluene | 1M, 0.9 ml | CC(C)C[AlH]CC(C)C.C1(=CC=CC=C1)C
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy]benzaldehyde monohydrochloride | 31 mg | Cl.ClC=1C=CC(=C(C=O)C1)O[C@@H](C)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | InChI=1S/C19H15ClF3N3O2.ClH/c1-11(28-16-8-7-13(20)9-12(16)10-27)17-24-25-18(26(17)2)14-5-3-4-6-15(14)19(21,22)23;/h3-11H,1-2H3;1H/t11-;/m0./s1
